US07834044B2
(a) (RS)-3-Methyl-3,4-dihydro-2H-benzo[1,4]oxazine
To a solution of 2H-1,4-benzoxazin-3(4H)-one (2.00 g, 13.4 mmol) in tetrahydrofuran (20 ml) was added dropwise at 5° C. a THF solution of methylmagnesium chloride (17.9 ml, 3 M, 53.7 mmol) and the reaction mixture was then stirred at 50° C. for 90 min. The reaction mixture was then cooled to 5° C. and quenched by dropwise addition of 20 ml acetic acid. Sodium borohydride (1.27 g, 33.5 mmol) was then added portionwise and the mixture was stirred at room temperature overnight. The resulting suspension was then cooled to 0° C. and 3 N aq. sodium hydroxide solution was added dropwise until the mixture was pH 10. Ethyl acetate was then added, the phases separated, and the organic phase dried over sodium sulphate and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant: heptane/ethyl acetate gradient) to yield the title compound as a colorless oil (0.92 g, 46%); MS (ISP): 150.3 ([M+H]+).

reactant | 2H-1,4-benzoxazin-3(4H)-one | 13.4 mmol, 2.00 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | methylmagnesium chloride | 53.7 mmol, 3 M, 17.9 ml | C[Mg]Cl
reactant | Sodium borohydride | 33.5 mmol, 1.27 g | [BH4-].[Na+]
reactant | sodium hydroxide | 3 N | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-3-Methyl-3,4-dihydro-2H-benzo[1,4]oxazine | 0.92 g, 46% | CC1COC2=C(N1)C=CC=C2 | C9H11NO
